US08252810B2
(1) 2-(3-Bromopropyl)-2H-[1,2,4]triazolo[4,3-a]pyrimidin-3-one
A mixture of 2H-[1,2,4]triazolo[4,3-a]pyrimidin-3-one (CAS 63206-77-9) (1.0 g), 1,3-dibromopropane (1.55 ml), sodium hydride (60% in oil) (353 mg) and N,N-dimethylformamide (20 ml) was stirred at room temperature for one day. After further addition of 1,3-dibromopropane (3.88 ml) and sodium hydride (60% in oil) (353 mg), stirring was continued at 80° C. for 2 hours. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (190 mg).

reactant | 2H-[1,2,4]triazolo[4,3-a]pyrimidin-3-one | 1.0 g | N=1NC(N2C1N=CC=C2)=O | C5H4N4O
reactant | 1,3-dibromopropane | 1.55 ml | BrCCCBr | C3H6Br2
reactant | sodium hydride | 353 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 1,3-dibromopropane | 3.88 ml | BrCCCBr | C3H6Br2
reactant | sodium hydride | 353 mg | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-(3-Bromopropyl)-2H-[1,2,4]triazolo[4,3-a]pyrimidin-3-one | 190 mg | BrCCCN1N=C2N(C=CC=N2)C1=O | C8H9BrN4O
